US07576215B2
3-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}OXY)PHENYL]PROP-2-YNOIC ACID
The title compound was prepared from [3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenyl]-methanol and (4-hydroxymethyl-phenyl)-propynoic acid methyl ester according to the procedure of Example 69. MS (ESI) m/z 538.

reactant | [3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenyl]-methanol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)CO)C(F)(F)F | C24H18F3NO
reactant | (4-hydroxymethyl-phenyl)-propynoic acid methyl ester | COC(C#CC1=CC=C(C=C1)CO)=O | C11H10O3
product | 3-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}OXY)PHENYL]PROP-2-YNOIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(COC2=CC=C(C=C2)C#CC(=O)O)C=CC1)C(F)(F)F | C33H22F3NO3
